US05240938
Step A: Preparation of methyl 2-(3-chloro-4-formylphenoxy)-2-phenylacetate
Using the K2CO3 /acetone conditions for phenol alkylation described in Step A of Example 30, 1.00 g (6.41 mmol) of 2-chloro-4-hydroxybenzaldehyde was alkylated with 1.61 g (7.05 mmol) of methyl 2-bromophenylacetate to afford 1.49 g (76%) of the title compound.

reactant | K2CO3 acetone | C(=O)([O-])[O-].[K+].[K+].CC(=O)C
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 2-chloro-4-hydroxybenzaldehyde | 6.41 mmol, 1.00 g | ClC1=C(C=O)C=CC(=C1)O | C7H5ClO2
reactant | methyl 2-bromophenylacetate | 7.05 mmol, 1.61 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
product | methyl 2-(3-chloro-4-formylphenoxy)-2-phenylacetate | 1.49 g, 76% | ClC=1C=C(OC(C(=O)OC)C2=CC=CC=C2)C=CC1C=O | C16H13ClO4
